US05883255
(±)-7-[1-[(Aminoacetyl)oxy]propyl]-12-cyano-8-methylindolizino[1,2-b]quinolin-9(11H)-one Hydrotrifluoroacetate
The title compound was prepared according to the procedure in Example 3B except using (±)-12-cyano-8-methyl-7-[1-[[[[(1,1-dimethylethoxy)carbonyl]amino]acetyl]oxy]propyl]indolizino[1,2-b]quinolin-9(11H)-one. 1H NMR (CDCl3 /MeOH-d4) d 8.28 (d, J=8.5 Hz, 1H), 8.22 (d, J=8.4 Hz, 1H), 7.95 (m, 1H), 7.82 (m, 1H), 7.36 (s, 1H), 6.00 (apparent t, J=6.6 Hz, 1H), 5.41 (s, 2H), 3.92 (br s, 2H), 2.33 (s, 3H), 2.08-1.82 (m, 2H), 1.00 (t, J=7.2 Hz, 3H). Anal. Calcd for C22H20N4O3.3/2 CF3CO2H.5/2 H2O: C, 49.67; H, 4.42; N, 9.27. Found: C, 49.41; H, 4.23; N, 9.29.

reactant | (±)-12-cyano-8-methyl-7-[1-[[[[(1,1-dimethylethoxy)carbonyl]amino]acetyl]oxy]propyl]indolizino[1,2-b]quinolin-9(11H)-one | C(#N)C1=C2C(=NC3=CC=CC=C13)C1=CC(=C(C(N1C2)=O)C)C(CC)OC(CNC(=O)OC(C)(C)C)=O | C27H28N4O5
reactant | CF3CO2H | C(F)(F)(F)C(=O)O | C2HF3O2
solvent | H2O | O | H2O
product | (±)-7-[1-[(Aminoacetyl)oxy]propyl]-12-cyano-8-methylindolizino[1,2-b]quinolin-9(11H)-one | NCC(=O)OC(CC)C1=C(C(N2CC=3C(=NC4=CC=CC=C4C3C#N)C2=C1)=O)C | C22H20N4O3
